US06953792B2
(E)-8-Phenyl-8-{3-[3,5-bis(trifluoromethyl)phenyl]prop-1-enyl}-1,4-dioxaspiro[4.5]decane
Lithium hexamethyldisilazide (1M in tetrahydrofuran, 7.0 mL, 7.0 mmol) was added over 10 minutes to a cooled (−78° C.) solution of 8-phenyl-1,4-dioxaspiro[4,5]decane-8-carboxaldehyde (J. Med. Chem. 1975, 18, 593-599, 1.68 g, 6.8 mmol) and 2-({(2-[3,5-bis(trifluoromethyl)phenyl]ethyl}sulfonyl)benzothiazole (Description 34, 2.99 g, 6.8 mmol) in tetrahydrofuran (15 mL) and the mixture was stirred at −78° C. for 1 hour, then allowed to warm to room temperature. Aqueous ammonium chloride (saturated, 10 mL) was added and the mixture was stirred at room temperature for 30 minutes. Water (5 mL) was added and the mixture was extracted with ethyl acetate (3×30 mL). The combined organic fractions were washed with brine (50 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (90:10) to give the tide compound as a pale yellow oil (2.43 g, 92%).

reactant | Lithium hexamethyldisilazide | 7.0 mmol, 1M, 7.0 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 8-phenyl-1,4-dioxaspiro[4,5]decane-8-carboxaldehyde | 6.8 mmol, 1.68 g | C1(=CC=CC=C1)C1(CCC2(OCCO2)CC1)C=O | C15H18O3
reactant | {(2-[3,5-bis(trifluoromethyl)phenyl]ethyl}sulfonyl)benzothiazole | 6.8 mmol, 2.99 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CCS(=O)(=O)C=1SC2=C(N1)C=CC=C2)(F)F | C17H11F6NO2S2
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | Water | 5 mL | O | H2O
product | (E)-8-Phenyl-8-{3-[3,5-bis(trifluoromethyl)phenyl]prop-1-enyl}-1,4-dioxaspiro[4.5]decane | 2.43 g, 92% | C1(=CC=CC=C1)C1(CCC2(OCCO2)CC1)\C=C\CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C25H24F6O2
